US08211923B2
Diethyl {[(1-acetyl-2,3-dihydro-1H-indol-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-methyl}-phosphonate
1.45 g diethyl {[(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonate are dissolved in 20 ml dichloromethane, combined with 2 ml acetic anhydride and stirred for 2 hours at ambient temperature. The mixture is diluted with dichloromethane, cooled to 0° C. and 20 ml of 4 N sodium hydroxide solution are added thereto. After stirring for 30 minutes the phases are separated and the organic phase is washed with saturated sodium chloride solution. Then it is dried on magnesium sulphate, the solvents are eliminated in vacuo and the residue is chromatographed on silica gel (dichloromethane/methanol 95:5 to 75:25).

reactant | diethyl {[(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonate | 1.45 g | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCNC2=CC1)CP(OCC)(OCC)=O | C19H23Cl2N2O5PS
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 4 N, 20 ml | [OH-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Diethyl {[(1-acetyl-2,3-dihydro-1H-indol-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-methyl}-phosphonate | C(C)(=O)N1CCC2=CC(=CC=C12)N(S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)CP(OCC)(OCC)=O | C21H25Cl2N2O6PS
